US07585881B2
4-Methoxy-N-methyl-benzamidine
Methylamine hydrochloride (2.28 g, 33.8 mmol) was suspended in toluene (16 ml). After cooling the resulting mixture to 0° C., trimethylaluminum (2M in toluene) was added drop-wise under Ar, followed by warming the mixture to r.t and stirring for 2 h. To this mixture was then added a solution of 4-methoxybenzonitrile in toluene (16 ml), followed by stirring at 80° C. for 24 h. The reaction mixture was cooled to r.t. and slowly poured in to a slurry of silica gel (10 g) in CHCl3 (75 ml). The slurry was stirred at r.t for 15 minutes and filtered using MeOH. The filtrate was concentrated. The isolated residue was dissolved in water (50 ml) and extracted with CHCl3. The combined organic phase was washed with brine, dried (Na2SO4), filtered and concentrated in-vacuo, to isolate the title compound (1.25 g). 1H-NMR (DMSO-d6): 7.68 (d, 2H), 6.91 (dd, 2H), 6.33 (br. s, 2H), 3.77 (s, 3H), 2.77 (s, 3H)

reactant | Methylamine hydrochloride | 33.8 mmol, 2.28 g | Cl.CN
reactant | trimethylaluminum | 2M | C[Al](C)C
reactant | 4-methoxybenzonitrile | COC1=CC=C(C#N)C=C1 | C8H7NO
solvent | toluene | 16 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 16 ml | C1(=CC=CC=C1)C | C7H8
solvent | CHCl3 | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Methoxy-N-methyl-benzamidine | 1.25 g | COC1=CC=C(C(=N)NC)C=C1 | C9H12N2O
